US06696473B2
B. Preparation of 4-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-N-ethyl-3-ethylaminobenzamide
In a manner similar to Example 30, intermediate N-ethyl-3-ethylamino-4-nitrobenzamide was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. 1H-NMR (CDCl3): δ 7.46-7.54 (3H, m), 7.27-7.38 (4H, m), 7.19 (1H, m), 6.96-7.08 (4H, m), 6.04 (1H, br t), 5.19 (2H, s), 3.76 (3H, s), 3.49 (2H, m), 3.06 (2H, q), 1.25 (3H, t), 1.05 (3H, t); MS(ESI): 544 (MH+).

reactant | N-ethyl-3-ethylamino-4-nitrobenzamide | C(C)NC(C1=CC(=C(C=C1)[N+](=O)[O-])NCC)=O | C11H15N3O3
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | 4-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-N-ethyl-3-ethylaminobenzamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC2=C(C=C(C(=O)NCC)C=C2)NCC | C29H29N5O2S2
